US08808742B2
Step B: 1-(2,3-Dihydroxypropyl)-N-(3,4,6-trifluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopropane-1-sulfonamide
1-Allyl-cyclopropanesulfonic acid [3,4,6-trifluoro-2-(2-fluoro-4-iodo-phenyl amino)-phenyl]-amide (110 mg, 0.21 mmol) and 4-methylmorpholine N-oxide (24.6 mg, 0.21 mmol) was dissolved in THF (8 mL). Osmium tetroxide was added at room temperature (0.021 mmol, 0.153 mL, 4% in H2O) and the reaction mixture was stirred at room temperature for 16 hours. EtOAc was added, the organic phase was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was purified over silica gel chromatography (eluants: EtOAc/MeOH) to obtain the titled product (0.89 g, 75%). 1H NMR (CDCl3, 300 MHz): δ 7.39 (dd, J=1.5 & 10.6 Hz, 1H), 7.29 (d, J=8.8 Hz, 1H), 7.28 (s, 1H), 6.97 (s, 1H), 6.76 (m, 1H), 6.49 (m, 1H), 4.13 (m, 1H), 3.66 (dd, J=3.7 & 11.4 Hz, 1H), 3.53 (dd. J=6.7 & 11.2 Hz, 1H), 2.50 (dd, J=10.0 & 16.1 Hz, 1H), 1.6 (m, 1H), 1.46 (m, 1H), 1.28 (m, 1H), 1.20 (m, 2H), 0.92 (m, 2H); m/z=559 [M−1]−.

reactant | 1-Allyl-cyclopropanesulfonic acid [3,4,6-trifluoro-2-(2-fluoro-4-iodo-phenyl amino)-phenyl]-amide | 0.21 mmol, 110 mg | FC=1C(=C(C(=CC1F)F)NS(=O)(=O)C1(CC1)CC=C)NC1=C(C=C(C=C1)I)F | C18H15F4IN2O2S
reactant | 4-methylmorpholine N-oxide | 0.21 mmol, 24.6 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
catalyst | Osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 1-(2,3-Dihydroxypropyl)-N-(3,4,6-trifluoro-2-(2-fluoro-4-iodophenylamino)phenyl)cyclopropane-1-sulfonamide | 0.89 g, 75% | OC(CC1(CC1)S(=O)(=O)NC1=C(C(=C(C=C1F)F)F)NC1=C(C=C(C=C1)I)F)CO | C18H17F4IN2O4S
